* NGSPICE simulation LAB 3 GROUP 23
* Group 23
*
.options savecurrents
.param n =1/10
*INDEPENDENT VOLTAGE SOURCE, Vs
Vs 1 0 0 sin(0 230 50 0 0 -90) 


*RESISTORS
R1 4 GND 98437
R2 4 5 677410

*DEPENDENT CURRENT SOURCE. 
Ftransf 1 0 Etransf n


*DEPENDENT VOLTAGE SOURCE. 
Etransf 2 3 1 0 n 



*DIODES
* FULL WAVE RECTIFIER

D1 2 4 D28
D2 GND 2 D28
D3 3 4 D28
D4 GND 3 D28


*DIODES IN SERIES

D5 5 6 D28
D6 6 7 D28
D7 7 8 D28
D8 8 9 D28
D9 9 10 D28
D10 10 11 D28
D11 11 12 D28
D12 12 13 D28
D13 13 14 D28
D14 14 15 D28
D15 15 16 D28
D16 16 17 D28
D17 17 18 D28
D18 18 19 D28
D19 19 20 D28
D20 20 21 D28
D21 21 22 D28
D22 22 23 D28
D23 23 24 D28
D24 24 25 D28
D25 25 26 D28
D26 26 GND D28



*CAPACITOR. 
C1 4 GND 0.0073476945

*START OF THE SIMULATION


.model D28 D
.op
.end
.control

*makes plots in color
set hcopypscolor=0
set color0= rgb:f/f/f ;
set color1=rgb:1/1/1;
set color2=red;
set color3=green;
set color4=blue;
set color5= orange;
set color5= yellow;

op



echo ""
echo  "TRANSIENT ANALYSIS"
echo ""
tran 0.0002 205m 5m

echo "op1_TAB"
print maximum(v(4))-minimum(v(4))
print mean(v(4))
echo "op1_END"

echo "op2_TAB"
print maximum(v(5))-minimum(v(5))
print mean(v(5))
echo "op2_END"

hardcopy sim3.ps {v(2)-v(3)} {v(4)} {v(5)} {v(5)-12}
echo sim3_FIG

hardcopy sim31.ps {v(4)-12} 
echo sim31_FIG

hardcopy sim_renv.ps {v(4)} 
echo sim31_FIG

hardcopy sim_rreg.ps {v(5)} 
echo sim31_FIG

echo "op3_TAB"
print 1/(8126.1415*((maximum(v(5))-minimum(v(5)))+abs(mean(v(5)-12))+10e-6))
echo "op3_END"

.endc
